US04225335
Preparation of N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-n-butoxyaniline
2-n-Butoxyaniline (99 grams; 0.6 moles) and sodium carbonate (31.6 grams) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Bromomethyl-4,5-dimethyl-1,3-dioxolane (25 ml) was added and the reaction mixture was heated at a temperature of about 100° C. for a period of about 4 hours. After this time the reaction mixture was filtered and additional sodium carbonate (5.0 grams) was added to the filtrate. The mixture was then vacuum distilled and the fraction boiling at 123° C. and 0.05 mm of Hg pressure was collected to yield the desired product N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-n-butoxyaniline.

reactant | 2-n-Butoxyaniline | 0.6 moles, 99 grams | C(CCC)OC1=C(N)C=CC=C1 | C10H15NO
reactant | sodium carbonate | 31.6 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Bromomethyl-4,5-dimethyl-1,3-dioxolane | 25 ml | BrCC1OC(C(O1)C)C | C6H11BrO2
product | N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-n-butoxyaniline | CC1OC(OC1C)CNC1=C(C=CC=C1)OCCCC | C16H25NO3
